US07981903B2
2-[(2-{[5-(dimethylamino)-1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide
In a manner analogous to a procedure outlined previously , 2-[(2-{[5-(dimethylamino)-1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide was prepared from 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrochloride, 1-[(dimethylamino)acetyl]-N5,N5-dimethyl-2,3-dihydro-1H-indole-5,6-diamine, and ammonium hydroxide to afford the title compound (0.20 g, 45% over 3 steps). ESIMS (M+H)+=532. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.21-2.28 (m, 6 H) 2.54-2.62 (m, 6 H) 3.03-3.12 (m, 2 H) 3.18 (s, 2 H) 4.17 (t, J=8.33 Hz, 2 H) 6.24-6.27 (m, 1 H) 6.85-6.90 (m, 1 H) 6.96-6.99 (m, 1 H) 7.06 (s, 1 H) 7.31-7.40 (m, 1 H) 7.67 (s, 1 H) 8.03 (br. s., 1 H) 8.11 (s, 1 H) 8.51 (d, J=8.23 Hz, 1 H) 8.77 (s, 1 H) 10.54 (s, 1 H) 11.32 (s, 1 H).

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrochloride | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | 1-[(dimethylamino)acetyl]-N5,N5-dimethyl-2,3-dihydro-1H-indole-5,6-diamine | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)N(C)C | C14H22N4O
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-[(2-{[5-(dimethylamino)-1-(N,N-dimethylglycyl)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | 0.20 g, 45% | CN(C=1C=C2CCN(C2=CC1NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)N)C(=CC=C2)F)C(CN(C)C)=O)C | C27H30FN9O2
